US05795887
3-{3-[1-(Isopropyl-phenyl-carbamoylmethyl)-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl]-ureido}-benzoic acid
A solution of 3-{3-[1-(Isopropyl-phenyl-carbamoylmethyl)-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl]-ureido}-benzoic acid tert-butyl ester (145 mg, 0.225 mmol), prepared as in Example 5A, in anhydrous DCM (2 mL) at 0-5--C. under nitrogen is treated with triflouroacetic acid (2 mL). After stirring for 2 hrs., the reaction mixture is concentrated in vacuo and triturated with anhydrous ether. The resulting slurry is filtered and the product dried overnight under high vacuum at ambient temperature to provide the title compound as a crystalline solid (80 mg, 0.136 mmol). 1H NMR (300 MHz, d6-DMSO) δ=0.96 (d, J=6.8 Hz, 6H); 4.12 (d, J=16.6 Hz, 1H); 4.23 (d, J=16.6 Hz, 1H); 4.71-6.76 (m, 1H); 5.18-5.27 (m, 1H); 7.24-7.70 (m, 19H); 8.02 (b, 1H); 9.22 (b, 1H). MS (FAB): [M+H]+ =590.

reactant | 3-{3-[1-(Isopropyl-phenyl-carbamoylmethyl)-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl]-ureido}-benzoic acid tert-butyl ester | 0.225 mmol, 145 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)NC(=O)NC1N=C(C2=C(N(C1=O)C(C(N)=O)(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C38H39N5O5
reactant | triflouroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-{3-[1-(Isopropyl-phenyl-carbamoylmethyl)-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl]-ureido}-benzoic acid | 0.136 mmol, 80 mg | C(C)(C)C(N1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)(C(N)=O)C2=CC=CC=C2 | C34H31N5O5
